US07652049B2
A mixture of 5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one (60 mg; 0.103 mmol), (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (27 mg; 0.129 mmol), palladium acetate (7 mg; 0.0103 mmol), and potassium carbonate (36 mg; 0.257 mmol) in 5:1 acetone/water (6 mL) was heated at reflux for 1 h. Acetone was removed in vacuo and the residue was diluted with H2O (10 mL) and extracted with CH2Cl2 (3×10 mL). The combined extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (0-25% EtOAc/hexanes gradient) to afford 5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one as a clear glass. LCMS=624.2 (M+1)+. 1H NMR (benzene-d6, 500 MHz, 1:1 mixture of atropisomers): δ 7.60 (s, 1.5H), 7.45 (s, 0.5H), 7.31-7.25 (m, 3H), 6.98-6.94 (m, 1H), 6.87-6.82 (m, 1H), 6.43-6.37 (m, 1H), 4.54 (d, J=15.6 Hz, 0.5H), 4.40-4.36 (m, 1H), 4.47 (d, J=15.6 Hz, 0.5H), 3.96 (d, J=15.5 Hz, 0.5H), 3.80 (d, J=15.8 Hz, 0.5H), 3.24-3.15 (m, 1H), 3.02 (s, 3H), 2.62-2.58 (m, 0.5H), 2.53-2.48 (m, 0.5H), 2.12-2.07 (m, 0.5H), 2.04-2.00 (m, 0.5H) 1.22-1.11 (m, 6H).

reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one | 0.103 mmol, 60 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CN(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)(F)F | C19H11F9INO2
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 0.129 mmol, 27 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | potassium carbonate | 0.257 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium acetate | 0.0103 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetone water | 6 mL | CC(=O)C.O
product | 5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CN(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C(C)C)F)OC)(F)F | C29H23F10NO3
